US08633173B2
[6-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine was prepared from 6-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (50.0 mg, 0.173 mmol) and 1-(4-bromo-phenyl)-4-methyl-piperazine (54.0 mg, 0.212 mmol) with 2,2′-Bis-dicyclohexylphosphanyl-biphenyl (20.0 mg, 0.0366 mmol) as the ligand in a manner analogous to Step 2d and was isolated as a yellow solid (0.009 g, 10%). MP=260-264° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 8.68-8.67 (m, 1H), 8.09-8.04 (m, 2H), 7.79-7.74 (m, 2H), 7.68 (dd, J=9.1, 1.8 Hz, 1H), 7.55 (d, J=9.3 Hz, 1H), 7.51-7.46 (m, 2H), 7.00-6.95 (m, 2H), 6.64 (s, 1H), 3.20-3.15 (m, 4H), 3.11 (s, 3H), 2.62-2.58 (m, 4H), 2.36 (s, 3H). MS=463 (MH)+.

reactant | 6-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.173 mmol, 50.0 mg | CS(=O)(=O)C1=CC=C(C=C1)C=1C=CC=2N(C1)N=C(N2)N | C13H12N4O2S
reactant | 1-(4-bromo-phenyl)-4-methyl-piperazine | 0.212 mmol, 54.0 mg | BrC1=CC=C(C=C1)N1CCN(CC1)C | C11H15BrN2
reactant | 2,2′-Bis-dicyclohexylphosphanyl-biphenyl | 0.0366 mmol, 20.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | [6-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | CS(=O)(=O)C1=CC=C(C=C1)C=1C=CC=2N(C1)N=C(N2)NC2=CC=C(C=C2)N2CCN(CC2)C | C24H26N6O2S
